US04450170
2-(4-amino-2,6-dibromophenylimino)imidazolidine
A solution of concentrated hydrochloric acid (2.8 ml, 0.028 M) in aqueous ethanol (50%, 15 ml) was added dropwise to a stirred heated mixture of 2-(2,6-dibromo-4-nitro phenylimino)imidazolidine (4 g, 0.011 M) and iron powder (1.9 g, 0.034 M) in aqueous ethanol (50%). The mixture was heated under reflux for 3 hours after which time it was filtered hot and evaporated to a low volume. This residual solution was acidified with dilute hydrochloric acid and the resulting solid was removed. The solutionwas then basified with dilute aqueous sodium hydroxide yielding a solid which was collected. This solid was triturated with hot methanol which wasthen evaporated to leave a brown solid (3.2 g). This solid was chromatographed on alumina and eluted with a methanol in methylene chloride gradient. The fractions containing the required compound were combined and evaporated affording 2-(4-amino-2,6-dibromophenylimino)imidazoline dihydrochloride, mp>320° C. (1.6 g).

reactant | hydrochloric acid | 0.028 M, 2.8 ml | Cl | ClH
reactant | 2-(2,6-dibromo-4-nitro phenylimino)imidazolidine | 0.011 M, 4 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)N=C1NCCN1 | C9H8Br2N4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | iron | 0.034 M, 1.9 g | [Fe] | Fe
product | 2-(4-amino-2,6-dibromophenylimino)imidazolidine | 3.2 g | NC1=CC(=C(C(=C1)Br)N=C1NCCN1)Br | C9H10Br2N4
